US06326359B1
2-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetic acid
A stirred solution of 2-{9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetonitrile (preparation 30) (1.5 g, 3 mmol) in methanol (30 ml) and an aqueous 1 molar solution of sodium hydroxide (10 ml) was heated at reflux for 24 hr. The methanol was then removed under reduced pressure and the residual liquid diluted with more water and washed twice with ethyl acetate. The aqueous phase was acidified to pH<7 with a 1 molar aqueous citrc acid solution and then extracted twice with ethyl acetate. The extracts were combined, washed with brine and dried with anhydrous magnesium sulfate. The residue, after removal of the solvent under reduced pressure, was dissolved into diethyl ether and the solvent removed again twice under reduced pressure to give the title compound (1.25 g) as a foam. MS: 518 (M−H+).

reactant | 2-{9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetonitrile | 3 mmol, 1.5 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CC#N | C27H28N6O4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
product | 2-{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}acetic acid | 1.25 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)O | C27H29N5O6
